US07582652B2
5-[2-tert-Butyl-5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine dihydrochloride
Dissolve 126 mg (0.3 mmol) 5-[2-tert-butyl-5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine in 2.0 mL acetone. Add 120 μL of 5N hydrochloric acid incrementally. Filter the resultant precipitate. Air dry to provide 140 mg (93%) of very light pink crystals.

reactant | 5-[2-tert-butyl-5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 0.3 mmol, 126 mg | C(C)(C)(C)C=1NC(=C(N1)C1=CC=C2C(=N1)N(C(=N2)N)CC(C)(C)C)C2=CC=C(C=C2)F | C24H29FN6
reactant | hydrochloric acid | 5N, 120 μL | Cl | ClH
solvent | acetone | 2.0 mL | CC(=O)C | C3H6O
product | 5-[2-tert-Butyl-5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-2-ylamine dihydrochloride | Cl.Cl.C(C)(C)(C)C=1NC(=C(N1)C1=CC=C2C(=N1)N(C(=N2)N)CC(C)(C)C)C2=CC=C(C=C2)F | InChI=1S/C24H29FN6.2ClH/c1-23(2,3)13-31-20-17(28-22(31)26)12-11-16(27-20)19-18(14-7-9-15(25)10-8-14)29-21(30-19)24(4,5)6;;/h7-12H,13H2,1-6H3,(H2,26,28)(H,29,30);2*1H
